US04486425
1-Ethoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate
To a solution of 500 mg of sodium 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate in 5 ml of N,N-dimethylacetamide were added, with ice-cooling, 395 mg of 1-iodoethyl ethylcarbonate, and then the mixture was stirred at room temperature for 30 minutes. At the end of this time, 50 ml of ethyl acetate were added to the reaction mixture, which was then washed with, in turn, 20 ml of water, 20 ml of a saturated aqueous solution of sodium bicarbonate and 20 ml of an aqueous solution of sodium chloride. The mixture was then dried over anhydrous magnesium sulphate and the solvent was removed by distillation under reduced pressure, giving a residue, which was chromatographed through 20 g of silica gel eluted with ethyl acetate, to afford 460 mg of the title compound.

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 500 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)[O-])C1=O)=NOCC.[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | 1-Ethoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 460 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C)OC(=O)OCC)C1=O)=NOCC | C21H27N5O9S2
